US08912229B2
0.16 gm of 13b.1 (0.192 mmol) and 42 mg of acrolein dimethyl acetal (0.41 mmol) were weighed into a 25 ml RB flask followed by addition of 40 mg of Montmorillonite clay, the flask was capped with a septum and 3 ml of ACN were added under nitrogen. The pH of the reaction was determined to be about 6. About 3 microliters of TFA were added. After additional stirring, the pH was found to be 3.5. After 30 minutes, 0.15 ml of acrolein dimethyl acetal was added and stirring continued at room temperature. The reaction was monitored by TLC and HPLC. The reaction was quenched after stirring for 5 hours with 2 ml of aqueous sodium bicarbonate and the solution was filtered over a bed of celite. The celite bed was washed with 20 ml of ACN, and the filtrates combined and concentrated on the rotavapor. The crude product was purified by reverse phase chromatography using methanol/water 4:1 to give 150 mg of acrolein acetal product, 14b.1.

reactant | acrolein dimethyl acetal | 0.41 mmol, 42 mg | COC(C=C)OC | C5H10O2
reactant | TFA | 3 microliters | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | acrolein dimethyl acetal | 0.15 ml | COC(C=C)OC | C5H10O2
reactant | ACN | 3 ml | C(C)#N | C2H3N
product | acrolein acetal | 150 mg | CCOC(C=C)OCC | C7H14O2
